US05344843
A mixture of 4-hydroxy-alpha-oxobenzeneacetic acid ethyl ester (0.71 g) in dimethylformamide (7 mL) under argon was treated with 55% sodium hydride (0.16 g), stirred for 15 minutes and then 4-(bromoacetyl)morpholine (0.76 g) in dimethylformamide (5 mL) was added. The mixture was stirred at room temperature for 18 hours and worked up as in Example 20. The crude product was purified by HPLC (toluene-hexane; 3:1 ) and then crystallized twice from ethyl acetate-hexane to provide 0.76 g of 4-[2-(4-morpholinyl)-2-oxoethoxy]-alpha-oxobenzeneacetic acid ethyl ester, mp 103°-106 ° C.

reactant | 4-hydroxy-alpha-oxobenzeneacetic acid ethyl ester | 0.71 g | C(C)OC(C(C1=CC=C(C=C1)O)=O)=O | C10H10O4
reactant | sodium hydride | 0.16 g | [H-].[Na+]
reactant | 4-(bromoacetyl)morpholine | 0.76 g | BrCC(=O)N1CCOCC1 | C6H10BrNO2
solvent | dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 4-[2-(4-morpholinyl)-2-oxoethoxy]-alpha-oxobenzeneacetic acid ethyl ester | 0.76 g | C(C)OC(C(C1=CC=C(C=C1)OCC(=O)N1CCOCC1)=O)=O | C16H19NO6
